US04472381
Diphenethylphosphinic acid (1.67 g, 6.1 m mole) was dissolved in carbon tetrachloride (5 ml), and sulfuryl chloride (1.46 g, 10.8 ml) was added thereto, and the mixture was heated while refluxing for 2 hours. It was confirmed that the starting material did not remain by tracement of the NMR spectrum. The solvent and excess sulfuryl chloride were distilled off under reduced pressure to obtain an oily diphenethylphosphinylchloride, which was supplied for the following reaction.

reactant | Diphenethylphosphinic acid | 1.67 g | C(CC1=CC=CC=C1)P(O)(=O)CCC1=CC=CC=C1 | C16H19O2P
reactant | sulfuryl chloride | 10.8 ml, 1.46 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | carbon tetrachloride | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | diphenethylphosphinylchloride | C(CC1=CC=CC=C1)P(=O)(CCC1=CC=CC=C1)Cl | C16H18ClOP
